### PR TITLE
[Merged by Bors] - feat(CategoryTheory): `Grothendieck.map` preserves finality

### PR DESCRIPTION
**Pull request by javra**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Final.lean [hunk 1]
```diff
@@ -1017,6 +1022,55 @@ instance Grothendieck.final_pre [hG : Final G] : (Grothendieck.pre F G).Final :=
...
     (isPreconnected_zigzag (.mk gbi) (.mk gbj))
 
+open Limits
+
+/-- This is the small version of the more general lemma `Grothendieck.final_map` below. -/
+private lemma Grothendieck.final_map_small {C : Type u₁} [Category.{u₁} C] {F G : C ⥤ Cat.{u₁, u₁}}
+    (α : F ⟶ G) [hα : ∀ X, Final (α.app X)] : Final (map α) := by
+  rw [final_iff_isIso_colimit_pre]
+  intro H
+  let fi : fiberwiseColimit (map α ⋙ H) ≅ fiberwiseColimit H := NatIso.ofComponents
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Limits/Final.lean:1032]: Do you think it might make sense to factor this out into a separate lemma?

File: Mathlib/CategoryTheory/Limits/Final.lean [hunk 2]
```diff
@@ -1017,6 +1022,55 @@ instance Grothendieck.final_pre [hG : Final G] : (Grothendieck.pre F G).Final :=
   exact zigzag_prefunctor_obj_of_zigzag (Grothendieck.structuredArrowToStructuredArrowPre F G d f)
     (isPreconnected_zigzag (.mk gbi) (.mk gbj))
 
+open Limits
+
+/-- This is the small version of the more general lemma `Grothendieck.final_map` below. -/
+private lemma Grothendieck.final_map_small {C : Type u₁} [Category.{u₁} C] {F G : C ⥤ Cat.{u₁, u₁}}
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Limits/Final.lean:1028]:
```suggestion
private lemma Grothendieck.final_map_small {C : Type u₁} [SmallCategory C] {F G : C ⥤ Cat.{u₁, u₁}}
```

**Review by TwoFX — COMMENTED** [review]
Are there `Initial` versions of this or does this only make sense for final functors?

**Comment by javra** [comment]
You're right, I should dualize this, not sure if it's easier to do that by looking at the induced natural transformation between `F.leftOp` and `G.leftOp` or whether I should better just replay the entire proof.

**Comment by javra** [comment]
Okay, I think it's better to do the dualization in a separate PR. If I'm not mistaken, we need quite some machinery that's not there for limits yet, but only for colimits. The core of the issue is that the opposite category of a Grothendieck construction is not a Grothendieck construction itself.

**Review by TwoFX — APPROVED** [review]
Thanks!
bors r+
